US09371332B2
Step 2: 3-iodo-1-methyl-5-phenyl-1H-pyrazolo[3,4-c]pyridazin-4-ol
A mixture of 4-chloro-3-iodo-1-methyl-5-phenyl-1H-pyrazolo[3,4-c]pyridazine (1.5 g, 4.05 mmol) and NaOH aqueous solution (4 M, 2 mL) in DMSO (6 mL) and dioxane (6 mL) was heated to 50° C. for 2.5 h. The mixture was left to cool to rt, then neutralised to pH 2-3, when a precipitate formed. The solid was filtered, washed with water and dried, to give 1.33 g of the intermediate.

reactant | 4-chloro-3-iodo-1-methyl-5-phenyl-1H-pyrazolo[3,4-c]pyridazine | 4.05 mmol, 1.5 g | ClC1=C2C(=NN=C1C1=CC=CC=C1)N(N=C2I)C | C12H8ClIN4
reactant | NaOH | 4 M, 2 mL | [OH-].[Na+]
solvent | DMSO | 6 mL | CS(=O)C | C2H6OS
solvent | dioxane | 6 mL | O1CCOCC1 | C4H8O2
product | 3-iodo-1-methyl-5-phenyl-1H-pyrazolo[3,4-c]pyridazin-4-ol | 1.33 g | IC1=NN(C=2N=NC(=C(C21)O)C2=CC=CC=C2)C | C12H9IN4O
